US07732461B2
(a) 2-Chloro-4-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-6-(methyloxy)pyridine
A solution of [2-chloro-6-(methyloxy)-4-pyridinyl]methanol (for a synthesis see Adamczyk, M.; Akireddy, S. R.; Reddy, Rajarathnam E. Tetrahedron 2002, 58(34), 6951)(8.02 g, 46.22 mmol) in dry DMF (100 ml) was treated with tert-butyldimethylsilyl chloride (8.36 g, 55.46 mmol) and imidazole (3.77 g, 55.46 mmol) and stirred at rt for 2 h. The reaction mixture was treated with water extracted three times with dichloromethane, dried (magnesium sulphate), evaporated and chromatographed on silica gel (100 g), eluting with 1:4 ethyl acetate-hexane to give the desired product (12.38 g, 93%).

reactant | [2-chloro-6-(methyloxy)-4-pyridinyl]methanol | ClC1=NC(=CC(=C1)CO)OC | C7H8ClNO2
reactant | tert-butyldimethylsilyl chloride | 55.46 mmol, 8.36 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 55.46 mmol, 3.77 g | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-Chloro-4-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-6-(methyloxy)pyridine | 12.38 g, 93% | ClC1=NC(=CC(=C1)CO[Si](C)(C)C(C)(C)C)OC | C13H22ClNO2Si
